US07825114B2
Preparation of 6-Cyclopropyl-4-(4-nitro-phenyl)-2-oxo-1,2-dihydro-pyridine-3-carbonitrile
Reaction of 17.9 g ammonium acetate (233 mmol, 7 eq.), 3.5 ml methyl cyanoacetate (40 mmol, 1.2 eq.), 3.8 ml 1-cyclopropyl-ethanone (38 mmol, 1.15 eq.), and 5 g 4-nitrobenzaldehyde (33 mmol, 1 eq.) yielded 3.23 g product (11.5 mmol, 35% yield).

reactant | ammonium acetate | 233 mmol, 17.9 g, 7 eq. | C(C)(=O)[O-].[NH4+]
reactant | methyl cyanoacetate | 40 mmol, 3.5 ml, 1.2 eq. | C(#N)CC(=O)OC | C4H5NO2
reactant | 1-cyclopropyl-ethanone | 38 mmol, 3.8 ml, 1.15 eq. | C1(CC1)C(C)=O | C5H8O
reactant | 4-nitrobenzaldehyde | 33 mmol, 5 g, 1 eq. | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
product | 6-Cyclopropyl-4-(4-nitro-phenyl)-2-oxo-1,2-dihydro-pyridine-3-carbonitrile | 11.5 mmol, 3.23 g, 35% yield | C1(CC1)C1=CC(=C(C(N1)=O)C#N)C1=CC=C(C=C1)[N+](=O)[O-] | C15H11N3O3
